US08026257B2
A mixture of 7-bromo-5-chloro-1H-indole-3-carbaldehyde (0.80 g, 3.09 mmol), Ammonium phosphate, dibasic (1.269 mL, 15.47 mmol), and 1-nitropropane (0.276 mL, 3.09 mmol) in Acetic Acid (20 mL) was heated at reflux. The solvent was evaporated, the residue was taken up in aqueous sodium bicarbonate (300 mL) and extracted with ethyl acetate (3×20 mL). The organic layers were dried with MgSO4 and evaporated. The residue was purified by chromatography on SiO2 with 20%-25% ethyl acetate/hexanes to give 7-bromo-5-chloro-1H-indole-3-carbonitrile (0.43 g, 1.683 mmol, 54.4% yield) as a yellow solid. 1H-NMR (CDCl3, 400 MHz) δ 8.27 (bs, 1H), 7.79 (s, 1H), 7.72 (d, J=1.8 Hz, 1H), 7.49 (d, J=1.8 Hz, 1H). LC/MS (HPLC method 4): tR=3.12 min, 255.01(MH)+.

reactant | 7-bromo-5-chloro-1H-indole-3-carbaldehyde | 3.09 mmol, 0.80 g | BrC=1C=C(C=C2C(=CNC12)C=O)Cl | C9H5BrClNO
reactant | Ammonium phosphate | P(=O)([O-])([O-])[O-].[NH4+].[NH4+].[NH4+]
reactant | 1-nitropropane | 3.09 mmol, 0.276 mL | [N+](=O)([O-])CCC | C3H7NO2
solvent | Acetic Acid | 20 mL | C(C)(=O)O | C2H4O2
product | 7-bromo-5-chloro-1H-indole-3-carbonitrile | 1.683 mmol, 0.43 g, 54.4% yield | BrC=1C=C(C=C2C(=CNC12)C#N)Cl | C9H4BrClN2
